US03970683
To 1.0 part of 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoic acid dissolved in methanol is added dropwise a 5% ethereal diazomethane solution until a slight excess of diazomethane is present. That excess is detected when the solution exhibits a persistent yellow color. The solution then is evaporated to dryness under a nitrogen atmosphere to yield methyl 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoate.

reactant | 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoic acid | OC1C=C(C(C1)=O)CCCCCCC(=O)O | C12H18O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | CO | CH4O
product | methyl 3(RS)-hydroxy-5-oxocyclopent-1-eneheptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
